US07820665B2
Step 4. 6-bromoimidazo[1,2-a]pyridin-2-amine
To a 250 mL round-bottomed flask was added N-(6-bromoH-imidazo[1,2-a]pyridin-2-yl)-2,2,2-trifluoroacetamide (3.50 g, 11 mmol), THF (15 mL), methanol (15 mL), water (15 mL) and potassium carbonate (16 g, 114 mmol). The mixture was stirred at 60° C. for 16 h. After cooling to rt, the mixture was poured into water (100 mL) and extracted with CH2Cl2 (4×75 mL). The combined extracts were washed with brine, dried (Na2SO4) and concentrated onto silica. Purification by silica gel chromatography (0.5 to 5.0% MeOH/CH2Cl2) afforded the title compound (1.01 g, 42%). MS (ESI, positive ion) m/z: 212 (M(79Br)+1).

reactant | N-(6-bromoH-imidazo[1,2-a]pyridin-2-yl)-2,2,2-trifluoroacetamide | 11 mmol, 3.50 g | C1C(=COC2=NC(=CN21)NC(=O)C(F)(F)F)Br | C8H5BrF3N3O2
reactant | THF | 15 mL | C1CCOC1 | C4H8O
reactant | methanol | 15 mL | CO | CH4O
reactant | potassium carbonate | 114 mmol, 16 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 100 mL | O | H2O
solvent | water | 15 mL | O | H2O
product | 6-bromoimidazo[1,2-a]pyridin-2-amine | 1.01 g, 42% | BrC=1C=CC=2N(C1)C=C(N2)N | C7H6BrN3
